US07045512B2
Step 1: Preparation of 2-fluoro-3′-(trifluoromethyl)-1,1′-biphenyl-4-amine
A mixture of 4-bromo-3-fluoroaniline (4.3 g), 3-trifluoromethylphenylboronic acid (4.4 g), sodium carbonate (6.5 g), palladium(II) acetate (0.22 g) and 2-(di-t-butylphosphino)biphenyl (0.60 g) were weighed into a reaction tube and flushed with nitrogen. A 70:30 mixture of dioxane/water (50 mL) was then added and the mixture was heated at 90° C. for 16 h. Ethyl acetate and water was added and the phases separated. The organic phase was dried and concentrated. The residue was purified by column chromatography on silica to give a solid (2.5 g).

reactant | 4-bromo-3-fluoroaniline | 4.3 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | 3-trifluoromethylphenylboronic acid | 4.4 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 6.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(di-t-butylphosphino)biphenyl | 0.60 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
catalyst | palladium(II) acetate | 0.22 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-fluoro-3′-(trifluoromethyl)-1,1′-biphenyl-4-amine | 2.5 g | FC1=C(C=CC(=C1)N)C1=CC(=CC=C1)C(F)(F)F | C13H9F4N
